US05618839
5-Amino-1,1-dimethyl-3-phenyl-1H-indene (LXXIa)
To a mixture of 1,1-dimethyl-5-nitro-3-phenyl-1H-indene (0.56 g, 2.11 mmol) in 5 mL of benzene was added 33% ferric chloride (1 mL) and 4 mL of water. The mixture was stirred at reflux and iron powder 1.00 g, 5.28 mmol) was added in four portions during 2 hours. The resulting mixture was stirred at reflux for additional 18 hours. The mixture was diluted with 20 mL of water and 20 mL of ethyl acetate, and filtered through a pad of celite. The filtrate was extracted with ethyl acetate (20 mL×3). The combined extracts were dried over magnesium sulfate to give 0.49 g (98% yield) of the crude title compound which was not further purified and used in the next reaction; 1H-NMR (CDCl3) δ1.37 (s, 6H), 6.40 (s, 1H), 6.71 (dd, J=2.0, 7.9 Hz, 1H), 6.93 (d, J=2.0 Hz, 1H), 7.19 (d, J=7.9 Hz, 1H), 7.36-7.58 (m, 5H); MS m/e 236 (MH+).

reactant | 1,1-dimethyl-5-nitro-3-phenyl-1H-indene | 2.11 mmol, 0.56 g | CC1(C=C(C2=CC(=CC=C12)[N+](=O)[O-])C1=CC=CC=C1)C | C17H15NO2
solvent | benzene | 5 mL | C1=CC=CC=C1 | C6H6
solvent | water | 20 mL | O | H2O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
catalyst | iron | 5.28 mmol, 1.00 g | [Fe] | Fe
solvent | water | 4 mL | O | H2O
product | 5-Amino-1,1-dimethyl-3-phenyl-1H-indene | 0.49 g, 98% yield | NC=1C=C2C(=CC(C2=CC1)(C)C)C1=CC=CC=C1 | C17H17N
